Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ male resident of ___ 
___ who began noting increasing abdominal distention 
today. He had ___ episodes of bilious emesis as well. He says he 
is not passing much flatus and his last bowel movement was ___ 
days ago by his account. He denies any pain, fevers and chills.

He had a very similar episode last year for which he was taken 
to ___ last year. He says they gave him an 
enema and he felt much better.

His referral papers from ___ state that he was found to 
have pneumobilia on ultrasound. Previously he was noted to have 
a 1.7cm gallstone. His son states that he has had two prior 
"blockages" at ___ and at ___.

 
Past Medical History:
PMH: atrial fibrillation on warfarin
     CVA - R parietal, R frontal, L cerebellar 
     prostate cancer treated with Casadex, no XRT
     hypothyroidism
     hypertension
     insomnia
     ventral hernia
     dementia with psychotic features - high elopement risk

PSH: None

 
Social History:
___
Family History:
Mother was killed in ___ at a young age during ___. 
Father died of MI at age ___. Has 6 siblings, 3 of whom are 
deceased, patient cannot recall causes of death. 

 
Physical Exam:
On Admission:

VS: 97.2 116AF 143/86 18 98 RA
Gen: elderly male, appears younger than stated age, NAD, no
icterus, alert and oriented but slow of speech
HEENT: NC/AT, EOMI, PERRLA bilat., MMM, without cervical LAD
on my exam
Cor: RRR without m/g/r, no JVD, no bruits
Lungs: CTA bilat.
___: +BS, soft, ND, NT, no masses
Ext: warm feet, no edema

 
Pertinent Results:
___ 06:58AM   ___ PTT-27.7 ___
___ 06:50AM   GLUCOSE-87 UREA N-21* CREAT-1.3* SODIUM-139 
POTASSIUM-3.9 CHLORIDE-103 TOTAL CO2-28 ANION GAP-12
___ 06:50AM   ALT(SGPT)-9 AST(SGOT)-14 CK(CPK)-66 ALK 
PHOS-62 TOT BILI-0.4
___ 06:50AM   LIPASE-49
___ 06:50AM   ALBUMIN-3.0* CALCIUM-8.2* PHOSPHATE-4.2 
MAGNESIUM-2.0
___ 06:50AM   WBC-9.9 RBC-3.46* HGB-9.7* HCT-29.5* MCV-85 
MCH-28.0 MCHC-32.9 RDW-15.0
___ 06:50AM   PLT COUNT-360
___ 08:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM UROBILNGN-1 PH-5.0 LEUK-NEG
___ 08:45PM URINE  RBC-0 ___ ___ YEAST-NONE 
___ 07:22PM   LACTATE-2.2*
___ 05:22PM   ALT(SGPT)-12 AST(SGOT)-16 CK(CPK)-72 ALK 
PHOS-81 TOT BILI-0.5
___ 05:22PM   LIPASE-87*
___ 05:22PM   cTropnT-0.02*
___ 05:22PM   CK-MB-4
___ 05:22PM   ALBUMIN-4.0
___ 05:22PM   WBC-13.0*# RBC-4.21* HGB-11.4* HCT-35.6* 
MCV-85 MCH-27.2 MCHC-32.2 RDW-14.9
___ 05:22PM   NEUTS-90.3* LYMPHS-6.1* MONOS-3.4 EOS-0.1 
BASOS-0.1
___ 07:00AM BLOOD WBC-4.9# RBC-3.45* Hgb-9.3* Hct-29.6* 
MCV-86 MCH-27.0 MCHC-31.5 RDW-15.3 Plt ___
___ 07:10AM BLOOD WBC-10.3# RBC-3.67* Hgb-10.1* Hct-31.4* 
MCV-86 MCH-27.4 MCHC-32.1 RDW-15.0 Plt ___
___ 07:30AM BLOOD WBC-6.0 RBC-3.71* Hgb-10.1* Hct-31.5* 
MCV-85 MCH-27.2 MCHC-32.0 RDW-15.0 Plt ___
.
___ CXR:
1. Low lung volumes with cardiomegaly and a left basal 
effusion/atelectasis at the lung base. 
2. Multiple gas-filled distended loops of bowel seen in the 
upper abdomen.
.
___ ABD/PELVIC CT W/CONTRAST:
Multiple dilated loops of small bowel with probable transition 
point of  terminal ileum in right inguinal hernia. Pneumobilia 
may be related to prior  procedure vs back pressure, but no 
apparent portal-venous gas. No evidence of mesenteric ischemia.
.
___ KUB/upright:
1. Oral contrast seen in the large bowel; however large bowel is 
not dilated. Loops of small bowel remain dilated. Right inguinal 
hernia containing loop of large bowel. Oral contrast is no 
longer seen in the stomach. 
2. Possible focal opacity at the left lung base, which could be 
focal 
pneumonia, small atelectasis at the lung base, or aspiration. 
CXR is 
recommended for better evaluation. 

 
Brief Hospital Course:
The patient was admitted from ___ to the 
General Surgical Service for further evaluation and treatment of 
a small bowel obstruction and pneumobilia. The patient was made 
NPO with IV fluids started, an NG tube and foley catheter were 
placed, serial examinations were carried out. Initial diagnostic 
work-up consisted of labwork, KUB/upright, CXR, Abdominal/Pelvic 
CT with contrast, and Liver/gallbladder Ultrasound.  The 
patient's DNR/DNI status was confirmed and continued by Dr. 
___.

With hydration and bowel rest, his vomiting ceased and his 
abdominal pain resolved within 24 hours.  His nasogastric tube 
was removed after 48 hours and he began clear liquids which were 
tolerated well.  His diet was gradually advanced to regular, low 
residue which he tolerated well.  His bowel regime included 
Senna, Colace and Sorbital which promoted bowel movements 
however his Colace was discontinued as his BM's were a bit loose 
so this will need to be watched.  He received a dulcolax 
suppository ___ to help with gas evacuation. On ___ 
Pt recieved serial KUB with Barium which showed delayed gastic 
emptying. However on ___ contrast was shown to be in the have 
completely passed through (see reports attached). On ___ he 
tolerated a regular diet and continued to have BM. His abd was 
soft non tender non distended and pt was stable at discharge. Pt 
was also see on ___ by geriatrics.

He did have rapid atrial fibrillation to 140/min. which slowed 
down with IV lopressor. He was started on digoxin and diltiazem 
which was part of his medication regime prior to his admission 
to ___.  He maintained good ___ control for 24 hours 
but was then noted to have some bradycardia.  Cardiology was 
consulted and recommended discontinuation of digoxin and 
diltiazem.  Beta blockers were recommended for rate control and 
he was initially started on lopressor 12.5 mg BID. This was 
increased to 25 mg BIB on ___ as he had some short runs on 
NSVT.  His Afib rate was 70-90 range.  He was initially started 
on IV heparin then switched to Lovenox for simplicity while 
Coumadin started.  His INR at discharge was 1.3. he recieved and 
was discharged on home dose of Coumadin 3mg . 

He was followed closely by Dr. ___ the ___ service 
for general evaluation, medication reviews and daily 
recommendations.

After conservative treatment of his small bowel obstruction he 
was discharged to ___ to the service of Dr. ___ 
___ knows him very well, and she will adjust his coumadin as 
needed to achieve and maintain an INR of 2.5.

Rabbi ___ will follow up with Dr. ___ in 2 weeks or sooner 
should his symptoms recur.

 
Medications on Admission:
ASA 81 mg. PO daily
Casodex ___ mg. PO daily
Calcium and Vit D
Celexa 30 mg. PO daily
Proscar 5 mg. PO daily
Xalatan eye drops ___
olanzapine 12.5 mg. PO daily
Coumadin 3 mg. PO daily
Synthroid 37.5 mg.PO daily
Ferrous sulfate 325 mg. PO daily
Vit. B12 1,000 mcg. Po daily

 
Discharge Medications:
1. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Olanzapine 5 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO BID (2 times a day) as needed for agitation.  
3. Olanzapine 2.5 mg Tablet Sig: Five (5) Tablet PO Q4PM.  
4. Bicalutamide 50 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.  
6. Artificial Tears     Drops Sig: ___ drops Ophthalmic twice a 
day.  
7. Celexa 10 mg Tablet Sig: Three (3) Tablet PO once a day.  
8. Synthroid 25 mcg Tablet Sig: 1.5 Tablets PO once a day.  
9. Vitamin B-12 1,000 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
10. Xalatan 0.005 % Drops Sig: One (1) drop both eyes Ophthalmic 
at bedtime.  
11. Warfarin 3 mg Tablet Sig: Three (3) Tablet PO once a day.  
12. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day) as needed for a fib with RVR.  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
14. Enoxaparin 80 mg/0.8 mL Syringe Sig: Eighty (80) mgs 
Subcutaneous Q12H (every 12 hours).  
15. Sorbitol 70 % Solution Sig: Thirty (30) mgs Miscellaneous 
BID (2 times a day).  
16. Levothyroxine 25 mcg Tablet Sig: ___ (25) mcg PO 
DAILY (Daily).  
17. Citalopram 20 mg Tablet Sig: Twenty (20) mgs) PO DAILY 
(Daily).  
18. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Small bowel obstruction
2. Pneumobilia
3. Reducible (R) inguinal hernia

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency  Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons.  Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours.  Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___